US09212190B2
To a solution of 4-amino-4-methylcyclohexan-1-ol hydrochloride (1.0 g, 6.04 mmol, 1.00 equiv) in THF/water (20 mL/5 mL) was added 2M aqueous sodium hydroxide until the pH was 9-10 at 0° C. Then Boc2O (1.57 g, 7.19 mmol, 1.19 equiv) was added and the resulting solution was stirred for 4 h at room temperature. The reaction was diluted with water and extracted with 3×80 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/1) to give the desired tert-butyl N-(4-hydroxy-1-methylcyclohexyl)carbamate (720 mg, 52%) as a white solid.

reactant | 4-amino-4-methylcyclohexan-1-ol hydrochloride | 6.04 mmol, 1.0 g, 1.00 equiv | Cl.NC1(CCC(CC1)O)C
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | Boc2O | 7.19 mmol, 1.57 g, 1.19 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF water | 20 mL | C1CCOC1.O
solvent | water | O | H2O
product | tert-butyl N-(4-hydroxy-1-methylcyclohexyl)carbamate | 720 mg, 52% | OC1CCC(CC1)(C)NC(OC(C)(C)C)=O | C12H23NO3
